US09210927B2
Step 1. Methyl 4-amino-3,5-dichlorobenzoate
conc. H2SO4 (2.5 mL, 97.04 mmol) was added drop wise to a stirred solution of 4-amino-3,5-dichlorobenzoic acid (10.0 g, 48.54 mmol) in MeOH (150 mL) at 0° C. and the reaction mixture was then stirred at 80° C. for 8 h. The volatiles were evaporated; ice-water was added to the residue and extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to afford the title compound as a white solid (7.5 g, 70%): 1H NMR (300 MHz, DMSO-d6) δ 8.05 (s, 2H), 3.96 (s, 3H); ESIMS m/z 282 ([M]+); IR (KBr): 1733, 762, 514 cm−1.

reactant | H2SO4 | 97.04 mmol, 2.5 mL | OS(=O)(=O)O | H2O4S
reactant | 4-amino-3,5-dichlorobenzoic acid | 48.54 mmol, 10.0 g | NC1=C(C=C(C(=O)O)C=C1Cl)Cl | C7H5Cl2NO2
reactant | MeOH | 150 mL | CO | CH4O
product | Methyl 4-amino-3,5-dichlorobenzoate | 7.5 g, 70% | NC1=C(C=C(C(=O)OC)C=C1Cl)Cl | C8H7Cl2NO2
